US07432289B2
A solution of 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (50 mg, 0.12 mmol) in 3(dimethylamino)pyrrolidine (1 ml) was heated at 120° C. for 18 h in a sealed tube. The reaction was concentrated under vacuum, the residue triturated with water to give N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(3-dimethylaminopyrrolidin-1-yl)isonicotinamide (38 mg). NMR; δH [2H6]—DMSO includes 10.28,(1H, s), 8.62,(1H, t), 8.20,(1H, d), 7.93,(2H, d), 7.71,(1H, dd), 7.65,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 6.98,(1H, d), 6.87,(1H, s), 3.72,(1H, m), 3.62,(1H, m), 3.37,(1H, m), 3.16,(3H, m), 2.80,(1H, b), 2.21,(9H, m), 1.81,(1H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 2.55 min, MH+498.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 0.12 mmol, 50 mg | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | 3(dimethylamino)pyrrolidine | 1 ml | CN(C1CNCC1)C | C6H14N2
product | N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(3-dimethylaminopyrrolidin-1-yl)isonicotinamide | 38 mg | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N1CC(CC1)N(C)C)=O | C30H35N5O2
